US04965398
A solution of an (R)-binaphthol-dibromotitanium complex which had been prepared in the same manner as in Example 6 was cooled to -30° C. and added with 82 mg (1 mmole) of methylenecyclopentane (manufactured by Aldrich Corp.) and 88 mg (1 mmole) of methyl glyoxylate, followed by reaction for 3 hours. Then, 10 ml of an aqueous sodium hydrogen-carbonate solution was added to terminate the reaction. The reaction mixture was filtered through Celite and extracted with two 20 ml portions of diethyl ether and two 20 ml portions of ethyl acetate, and the extract was dried over anhydrous magnesium sulfate. Thereafter, the solvents were distilled off, and hexane was added to the residue to crystallize binaphthol. The remaining solution was purified by means of silica gel column chromatography to obtain 156 mg of methyl (R)-2-hydroxy-3-(l-cyclopentenyl)propionate. The yield was 92%.

reactant | methylenecyclopentane | 1 mmole, 82 mg | C=C1CCCC1 | C6H10
reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
solvent | sodium hydrogen-carbonate | 10 ml | C(O)([O-])=O.[Na+]
product | methyl (R)-2-hydroxy-3-(l-cyclopentenyl)propionate | 156 mg, yield was 92% | O[C@@H](C(=O)OC)CC1=CCCC1 | C9H14O3
